US07342039B2
To a solution of 6-(3-bromo-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.30 g, 0.72 mmol) and 1-benzyl-1H-indole-3-carbaldehyde oxime (0.18 g, 0.72 mmol) in 10/5/3 tetrahydrofuran/ethanol/water (18 mL) was added 2.5 M sodium hydroxide solution (3 mL). This mixture was heated to reflux for 2.5 hours and then allowed to cool back to room temperature. The mixture was partitioned between ethyl acetate and water. The aqueous layer was acidified to approximately pH 1 using 1 N hydrochloric acid. The layers were then separated. The aqueous layer was extracted with one additional portion of ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (20/80 with 1% formic acid) to give 6-[3-({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino }oxy)propoxy]-4′-(trifluoromethyl)-1,1′-biphenyl-3-carboxylic acid (0.041 g, 10%) as a white solid. mp=193-194° C. 1H NMR (400 MHz, DMSO-d6); δ 8.24 (s, 1H), 7.94 (d, 1H), 7.90-7.86 (m, 3H), 7.78-7.74 (m, 5H), 7.40 (d, 1H), 7.25-7.11 (m, 7H), 5.43 (s, 2H), 4.26 (t, 2H), 4.23 (t, 2H), 2.49 (m, 2H). Mass spec; (ES+) m/z 5.73.1 (ES−) m/z 571.5. Elemental analysis; Calculated for C33H27F3N2O4: C, 69.22; H, 4.75; N, 4.89. Found: C, 68.62; H, 4.93; N, 4.81.

reactant | 6-(3-bromo-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 0.72 mmol, 0.30 g | COC(=O)C=1C=C(C(=CC1)OCCCBr)C1=CC=C(C=C1)C(F)(F)F | C18H16BrF3O3
reactant | 1-benzyl-1H-indole-3-carbaldehyde oxime | 0.72 mmol, 0.18 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=NO | C16H14N2O
reactant | sodium hydroxide | 2.5 M, 3 mL | [OH-].[Na+]
product | 6-[3-({[(1E)-(1-benzyl-1H-indol-3-yl)methylidene]amino }oxy)propoxy]-4′-(trifluoromethyl)-1,1′-biphenyl-3-carboxylic acid | 0.041 g, 10% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)\C=N\OCCCOC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C33H27F3N2O4
